US06350749B1
To 60% sodium hydride (0.21 g, washed with hexane thrice) was added ethanol (30 ml), and to the mixture was added 5-(2-methylphenyl)cyclohexane-1,3-dione (1.0 g) and then was added chloroacetone (0.45 g) at 0° C. The mixture was stirred at room temperature for 20 minutes and was refluxed for 24 hours. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in ethyl acetate. The solution was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (EtOAc/hexane) to give oil of 3-methyl-6-(2-methylphenyl)-4,5,6,7-tetrahydrobenzofuran-4-one (0.18 g).

reactant | sodium hydride | 0.21 g | [H-].[Na+]
reactant | 5-(2-methylphenyl)cyclohexane-1,3-dione | 1.0 g | CC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C13H14O2
reactant | chloroacetone | 0.45 g | ClCC(C)=O | C3H5ClO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-methyl-6-(2-methylphenyl)-4,5,6,7-tetrahydrobenzofuran-4-one | 0.18 g | CC1=COC2=C1C(CC(C2)C2=C(C=CC=C2)C)=O | C16H16O2
